US05296495
A mixture of 2-bromomethyl-4-tert-butylthiazole (1.05 g), 5-formyl-2-hydroxybenzaldehyde (0.74 g), potassium carbonate (0.89 g) and potassium iodide (small mass) in N,N-dimethylformamide was stirred at 50° C. for 5 hours. After being cooled, the resulting solution was poured into ice-water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give a syrup. The syrup was subjected to column chromatography on silica gel and eluted with a mixture of toluene and ethyl acetate. The fractions containing object compound were combined and concentrated under reduced pressure to give 4-tert-butyl-2-(2,4-diformylphenoxymethyl)thiazole (1.0 g).

reactant | 2-bromomethyl-4-tert-butylthiazole | 1.05 g | BrCC=1SC=C(N1)C(C)(C)C | C8H12BrNS
reactant | 5-formyl-2-hydroxybenzaldehyde | 0.74 g | C(=O)C=1C=CC(=C(C=O)C1)O | C8H6O3
reactant | potassium carbonate | 0.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-tert-butyl-2-(2,4-diformylphenoxymethyl)thiazole | 1.0 g | C(C)(C)(C)C=1N=C(SC1)COC1=C(C=C(C=C1)C=O)C=O | C16H17NO3S
